US07459554B2
1-(3-Benzyloxyphenyl)-3-cyclohexylmethylimidazo[1,5-a]pyrazin-8-ylamine:
N-[(3-Benzyloxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-2-cyclohexyl-acetamide: Prepared according to the procedures for Cyclobutanecarboxylic Acid [(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]Amide, White solid, 1H NMR (CDCl3, 400 MHz) δ 0.88-0.97 (m, 2H), 1.09-1.29 (m, 3H), 1.63-1.82 (m, 6H), 2.11 (d, 1H, J=7.2 Hz), 5.02 (s, 2H), 6.55 (d, 1H, J=7.6 Hz), 6.86-6.94 (m, 3H), 7.03 (d, 1H, J=7.6 Hz), 7.19-7.25 (m, 1H), 7.30-7.40 (m, 6H), 8.32 (d, 1H, J=2.0 Hz), 8.49 (d, 1H, J=2.0 Hz).

reactant | N-[(3-Benzyloxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-2-cyclohexyl-acetamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(NC(CC1CCCCC1)=O)C1=NC=CN=C1Cl | C26H28ClN3O2
reactant | Cyclobutanecarboxylic Acid [(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]Amide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C1=NC=CN=C1Cl)NC(=O)C1CCC1 | C23H22ClN3O2
product | 1-(3-Benzyloxyphenyl)-3-cyclohexylmethylimidazo[1,5-a]pyrazin-8-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)CC2CCCCC2 | C26H28N4O
